US08357693B2
A mixture of 4-methoxy-5-(2-methoxyethoxy)-2-nitrobenzamide (4.5 g, contains some NH4Cl) and 10% Pd/C (ca. 0.5 g) in DME (200 mL) and MeOH (200 mL) was hydrogenated under a balloon of H2 at RT for 12 h. The mixture was filtered through a pad of Celite® and concentrated in vacuo to give 2-amino-4-methoxy-5-(2-methoxyethoxy)benzamide as an off white solid (2.8 g, 11.6 mmol). HPLC retention time 2.80 mins.

reactant | 4-methoxy-5-(2-methoxyethoxy)-2-nitrobenzamide | COC1=CC(=C(C(=O)N)C=C1OCCOC)[N+](=O)[O-] | C11H14N2O6
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DME | 200 mL | COCCOC | C4H10O2
solvent | MeOH | 200 mL | CO | CH4O
catalyst | Pd/C | ca. 0.5 g | [Pd] | Pd
product | 2-amino-4-methoxy-5-(2-methoxyethoxy)benzamide | NC1=C(C(=O)N)C=C(C(=C1)OC)OCCOC | C11H16N2O4
